US05652363
4-Chloroacetamido-3-hydroxypyridine
A solution of 4-amino-3-hydroxypyridine (7 g, 0.06 mol) and chloroacetyl chloride (50 ml) was refluxed for 2 hours, cooled and the excess solvent was removed by vacuum distillation. The crude material was dissolved in water, neutralized with Na2CO3 and the solid precipitated filtered and air dried to give the desired product, m.p. 155°-158° C. The structural assignment was supported by the proton NMR spectrum.

reactant | 4-amino-3-hydroxypyridine | 0.06 mol, 7 g | NC1=C(C=NC=C1)O | C5H6N2O
reactant | chloroacetyl chloride | 50 ml | ClCC(=O)Cl | C2H2Cl2O
product | 4-Chloroacetamido-3-hydroxypyridine | ClCC(=O)NC1=C(C=NC=C1)O | C7H7ClN2O2
